US04625036
1,3-Dichloro-2-(2-fluoro-4-trifluoromethylphenyl)-2-propanol (7 g.) was added to a solution of sodium hydride (1.45 g. of 48% dispersion in oil) in tert-butyl alcohol (30 ml.) and heated at 100° C. for 1 hour. The mixture was evaporated to dryness and the residue was partitioned between ethyl acetate and water. The organic layer was separated, washed with water and dried with anhydrous magnesium sulphate, and the filtered solution was evaporated to dryness to give 2-chloromethyl-2-(2-fluoro-4-trifluoromethylphenyl)oxirane as a yellow oil.

reactant | 1,3-Dichloro-2-(2-fluoro-4-trifluoromethylphenyl)-2-propanol | 7 g | ClCC(CCl)(O)C1=C(C=C(C=C1)C(F)(F)F)F | C10H8Cl2F4O
reactant | sodium hydride | 1.45 g | [H-].[Na+]
solvent | tert-butyl alcohol | 30 ml | C(C)(C)(C)O | C4H10O
product | 2-chloromethyl-2-(2-fluoro-4-trifluoromethylphenyl)oxirane | ClCC1(OC1)C1=C(C=C(C=C1)C(F)(F)F)F | C10H7ClF4O
